US07626021B2
To the crude 2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide obtained in last step was added TFA (2 mL) and the resulting mixture was sonicated till the residue was completely dissolved. The TFA was evaporated. The residue was treated with ethylene diamine (0.2 mL) to scavenge the formaldehyde which generated from the de-protection of the trimethylsilanylethoxymethyl group. The resulting mixture was sonicated till the residue was completely dissolved to give a greenish blue solution. DMSO was added to make a 2 mL solution which was used in preparative LCMS purification on a reverse phase column to yield 2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide as a white solid (21 mg, 29% over two steps) MS: m/z 387 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.84 (s, 3H), 3.04 (s, 3H), 3.78 (s, 2H), 3.86 (s, 6H), 7.10 (t, 1H), 7.23 (d, 1H), 7.25 (d, 1H), 7.43 (t, 1H), 7.47 (t, 1H), 7.61 (s, 1H), 7.62 (d, 1H), 7.66 (d, 1H), 8.30 (s, 1H), 8.82 (d, sH), 13.82 (s, 1H).

reactant | 2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)CC(=O)N(C)C)COCC[Si](C)(C)C | C29H36N4O3Si
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)CC(=O)N(C)C | C23H22N4O2
